US05478845
A mixture of 4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine (1 g; 4.3 mmol) and phenyloxirane (0.6 g; 5 mmol) in 10 ml acetonitrile was refluxed for 16 h. The cooled reaction mixture was concentrated in vacuo and purified by chromatography on silica gel 60 with ethyl acetate: methanol (9:1, v/v) as eluent. Concentration of the appropriate fractions gave 500 mg (33%) of 1-(2-hydroxy-2-phenyl-ethyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)-piperidine.

reactant | 4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine | 4.3 mmol, 1 g | FC1=CC=C2C(=NN(C2=C1)C)C1CCNCC1 | C13H16FN3
reactant | phenyloxirane | 5 mmol, 0.6 g | C1(=CC=CC=C1)C1OC1 | C8H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(2-hydroxy-2-phenyl-ethyl)-4-(6-fluoro-1-methyl-1H -indazol-3-yl)-piperidine | 500 mg, 33% | OC(CN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C)C1=CC=CC=C1 | C21H24FN3O
